US07544685B2
3c, 2-((+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperidin 1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-2-oxoacetamide oxalate
from 5-{1-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperidin-4-yl}-1H-indole and oxalamic acid. Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-{1-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperidin-4-yl}-1H-indole | N1C[C@H](C2=CC=CC=C12)CCN1CCC(CC1)C=1C=C2C=CNC2=CC1 | C23H27N3
reactant | oxalamic acid | C(C(=O)N)(=O)O | C2H3NO3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-((+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperidin 1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-2-oxoacetamide oxalate | C(C(=O)O)(=O)O.N1C=CC2=CC(=CC=C12)C1CCN(CC1)CC[C@@H]1CN(C2=CC=CC=C12)C(C(=O)N)=O | InChI=1S/C25H28N4O2.C2H2O4/c26-24(30)25(31)29-16-20(21-3-1-2-4-23(21)29)10-14-28-12-8-17(9-13-28)18-5-6-22-19(15-18)7-11-27-22;3-1(4)2(5)6/h1-7,11,15,17,20,27H,8-10,12-14,16H2,(H2,26,30);(H,3,4)(H,5,6)/t20-;/m1./s1
